US09315495B2
The compound was synthesized as in Example 3.1 using 4-bromobenzaldehyde (250 mg, 1.35 mmol) in place of 5-bromo-2-formylfuran and ethylboronic acid (165 mg, 2.23 mmol) in place of hexylboronic acid to give 4-ethylbenzaldehyde (93 mg, 51%). Used without further characterization.

reactant | 4-bromobenzaldehyde | 1.35 mmol, 250 mg | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | ethylboronic acid | 2.23 mmol, 165 mg | C(C)B(O)O | C2H7BO2
product | 4-ethylbenzaldehyde | 93 mg, 51% | C(C)C1=CC=C(C=O)C=C1 | C9H10O
